US04605740
7.2 parts 30% methanolic Na-methylate solution are added to 36.5 parts diethylamine. 77 parts 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene are added drop-wise at 40° C. The reaction medium is then stirred for 15 hours at this temperature and neutralised with 4 parts concentrated hydrochloric acid. 100 parts methylene chloride and 50 parts water are added, the organic phase separated off, and the aqueous phase extracted 3 times with 25 parts methylene chloride in each instance. The combined organic phases are reduced in a rotary evaporator at a bath temperature of 90° C. and under a vacuum of 20 Torr. The residue is heated under a vacuum of 20 Torr to 110° to 120° C. (bath temperature 140° C.). On conclusion of the furane separation, the sedimentation temperature increases and the product distills over at the now lowered pressure. 21 parts N,N-diethylacrylamide with a boiling point of 55° C. at 1 Torr are obtained.

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene | C(=O)(OC)C1C2C=CC(C1)O2 | C8H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N,N-diethylacrylamide | C(C)N(C(C=C)=O)CC | C7H13NO
